US05399562
To a solution of 4-cyanoquinuclidine (500 mg, 3.64 mmol, prepared by the method described in EP-269,991-A) in dry THF (5 mL) was added a 1M solution of lithium aluminum hydride (8 mL, 8.0 mmol). The reaction was heated under reflux for 2.5 hours, then subjected to a Fieser workup to yield 4-aminomethylquinuclidine (460 mg, 91%).

reactant | 4-cyanoquinuclidine | C(#N)C12CCN(CC1)CC2 | C8H12N2
reactant | lithium aluminum hydride | 8.0 mmol, 8 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-aminomethylquinuclidine | 460 mg, 91% | NCC12CCN(CC1)CC2 | C8H16N2
